US06825188B2
c) Methyl(±)-8-[3-[(2-imidazolin-2-yl)amino]-1-propyloxy]-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate
A mixture of methyl (±)-8-[3-amino-1-propyloxy]-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate (0.3 g, 1 mmol), 2-methylthioimidazoline (0.46 g, 2 mmol), diisopropylethylamine (0.42 mL, 2 mmol) and dimethylacetamide (3 mL) was heated to 100° C. under argon. After 2 hr, the reaction was concentrated under vacuum and the residue was partitioned between CHCl3 and H2O. The organic phase was dried (MgSO4) and concentrated, and the residue was purified by preparative HPLC to give the title compound (0.24 g, 51%) as a yellow oil: MS (ES) m/e 389.4 (M+H)+.

reactant | methyl (±)-8-[3-amino-1-propyloxy]-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 1 mmol, 0.3 g | NCCCOC1=CC2=C(CC(C(N(C2)C)=O)CC(=O)OC)C=C1 | C17H24N2O4
reactant | 2-methylthioimidazoline | 2 mmol, 0.46 g | CSC=1NCCN1 | C4H8N2S
reactant | diisopropylethylamine | 2 mmol, 0.42 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylacetamide | 3 mL | CC(=O)N(C)C | C4H9NO
product | Methyl(±)-8-[3-[(2-imidazolin-2-yl)amino]-1-propyloxy]-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 0.24 g, 51% | N1C(=NCC1)NCCCOC1=CC2=C(CC(C(N(C2)C)=O)CC(=O)OC)C=C1 | C20H28N4O4
